US03992544
1-Benzyl-3-methyl-5-prop-2-ynyl-4-piperidone
A solution of 1-benzyl-1,2,3,6-tetrahydro-3-methyl-4-pyrolidino-pyridine (14 g) and propargyl bromide (6 g) in dry benzene (50 ml) was stirred at room temperature under nitrogen for 40 hours. The mixture was then heated on a steam bath for one-half hour with water (200 ml). The organic layer was collected, dried over magnesium sulphate and evaporated, leaving 11.6 g of the crude title compound (about 50% by g.l.c.) as a red oil.

reactant | 1-benzyl-1,2,3,6-tetrahydro-3-methyl-4-pyrolidino-pyridine | 14 g | C(C1=CC=CC=C1)N1CC(C(=CC1)N1CCCC1)C | C17H24N2
reactant | propargyl bromide | 6 g | C(C#C)Br | C3H3Br
reactant | water | 200 ml | O | H2O
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1-Benzyl-3-methyl-5-prop-2-ynyl-4-piperidone | 11.6 g, about 50% | C(C1=CC=CC=C1)N1CC(C(C(C1)CC#C)=O)C | C16H19NO
